US04254267
(E) (±)-3-(2-Pyridyl)-4,5-dihydro-1-(3-mercapto-1-oxopropyl)-1H-pyrazole-5-carboxylic acid
Aqueous ammonia (12 ml of 7 N) is stirred at 0°-5° C. under argon and 3.5 g of (±)-1-[3-(acetylthio)-1-oxopropyl]-3-(2-pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid is added. The resulting solution is stirred for 2 hours under argon and is then extracted with ethyl acetate (discarded). The aqueous layer is acidified with acetic acid and extracted with ethyl acetate (three 50 ml portions). The combined organic layers are washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield the title compound.

reactant | ammonia | 7 N, 12 ml | N | H3N
reactant | (±)-1-[3-(acetylthio)-1-oxopropyl]-3-(2-pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | 3.5 g | C(C)(=O)SCCC(=O)N1N=C(CC1C(=O)O)C1=NC=CC=C1 | C14H15N3O4S
product | (±)-3-(2-Pyridyl)-4,5-dihydro-1-(3-mercapto-1-oxopropyl)-1H-pyrazole-5-carboxylic acid | N1=C(C=CC=C1)C1=NN(C(C1)C(=O)O)C(CCS)=O | C12H13N3O3S
